US07723333B2
4-[(2-Aminoethyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
Ethylenediamine (0.60 g, 10.0 mmol) was dissolved in dry DMF (50 ml) and heated to 60° C. 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (1.00 g, 3.34 mmol) dissolved in DMF (10 ml) was added dropwise over 30 mins and stirred at 60° C. for 10 mins. The reaction mixture was diluted with EtOAc (300 ml) and washed with water (400 ml and 2×200 ml), dried (Na2SO4), filtered and evaporated to give the title compound (0.97 g, 90%). 1H-NMR (500 MHz, CDCl3): δ 7.50-7.45 (m, 2H), 7.42-7.37 (m, 3H), 5.83-5.76 (m, 1H), 2.84-2.78 (m, 2H), 2.67-2.62 (m, 2H), 1.71 (s, 9H); 13C-NMR (125 MHz, CDCl3): δ 159.7, 135.4, 131.6, 129.5, 128.6, 125.2, 106.9, 61.5, 46.2, 40.8, 27.7; Mass Spectrum: M+H+ 324.

reactant | Ethylenediamine | 10.0 mmol, 0.60 g | C(CN)N | C2H8N2
reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 3.34 mmol, 1.00 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | 4-[(2-Aminoethyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.97 g, 90% | NCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C15H21N3O3S
